US04710573
6-Fluoro-3-(4-piperidinyl)-1H-indazole
A solution of 20.0 g of 1-acetyl-4-(2,4-difluorobenzoyl)piperidine, 60 ml of hydrazine hydrate and 150 ml of n-butanol was refluxed for 48 hrs. The reaction was poured into 11 of water, and the mixture was extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated in vacuo. Recrystallization of the residue from isopropanol-water and then from isopropanol yielded 3.3 g (20.1%) of product, mp 214°-216° C.

reactant | 1-acetyl-4-(2,4-difluorobenzoyl)piperidine | 20.0 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)F)F)=O | C14H15F2NO2
reactant | hydrazine hydrate | 60 ml | O.NN
reactant | n-butanol | 150 ml | C(CCC)O | C4H10O
solvent | water | O | H2O
product | 6-Fluoro-3-(4-piperidinyl)-1H-indazole | 3.3 g, 20.1% | FC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14FN3
